US09351973B2
Step A. 2-methyl-3-oxo-3-(pyridin-3-yl)propanenitrile
Under a N2 atmosphere ethyl nicotinate (3 g, 0.02 mol) and NaH (1.6 g, 0.04 mol) were suspended in toluene (30 mL) and heated to 90° C. Propiononitrile (2.2 g, 0.04 mol) was added dropwise and the reaction was stirred at 90° C. overnight. After cooling to room temperature, the solid was filtered and collected. The solid was dissolved in water (50 mL) and washed with ethyl acetate (30 mL). The aqueous layer was adjusted to pH=6 with 2M HCl and extracted again with ethyl acetate (30 mL×2). The combined ethyl acetate extracts were combined and dried over Na2SO4, filtered and concentrated in vacuo to give the desired product: 1HNMR (400 MHz, CDCl3) δ 9.25 (d, 1 H, J=1.2 Hz), 8.90 (d, 1 H, J=4.8 Hz), 8.33 (d, 1 H, J=8.0 Hz), 7.54 (dd, 1 H, J=1.2 Hz, J=8.0 Hz), 4.37-4.39 (m, 1 H), 1.71 (d, 3 H, J=7.2 Hz).

reactant | ethyl nicotinate | 0.02 mol, 3 g | C(C1=CN=CC=C1)(=O)OCC | C8H9NO2
reactant | NaH | 0.04 mol, 1.6 g | [H-].[Na+]
reactant | Propiononitrile | 0.04 mol, 2.2 g | C(CC)#N | C3H5N
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 2-methyl-3-oxo-3-(pyridin-3-yl)propanenitrile | CC(C#N)C(C=1C=NC=CC1)=O | C9H8N2O
